US04007226
EXAMPLE I - 20% Sodium Silicate-Cobalt (Calculated as CoO)
A paste is prepared from 149.5 g. of sodium silicate solution (38.8% by weight aqueous solution of 1 Na2O:3.25 SiO2) and 300 g. of cobalt oxide hydrate (61% cobalt) and extruded into 1/8 inch extrusions. The extrusions are dried at room temperature and then slowly dried further in a tube furnace. The dried material is reduced in hydrogen at 350° C. to provide a catalyst having a bulk density of 28 lbs./cu. ft. and a crushing strength of 2 pounds.

reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | cobalt oxide hydrate | O.[Co]=O
product | Sodium Silicate Cobalt | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Co] | InChI=1S/Co.4Na.O4Si/c;;;;;1-5(2,3)4/q;4*+1;-4
